US07018988B2
(2S,4EZ)-N-(2-hydroxyethyl)-4-(methoxyimino)-1-nonanoyl-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, nonanoic acid, and 2-aminoethanol, the title compound was obtained in 93% purity by HPLC. MS(ESI+): m/z=342.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | nonanoic acid | C(CCCCCCCC)(=O)O | C9H18O2
reactant | 2-aminoethanol | NCCO | C2H7NO
product | (2S,4EZ)-N-(2-hydroxyethyl)-4-(methoxyimino)-1-nonanoyl-2-pyrrolidinecarboxamide | OCCNC(=O)[C@H]1N(CC(C1)=NOC)C(CCCCCCCC)=O | C17H31N3O4
